* ProCo RAT Model (source: https://electrosmash.mas-effects.com/ElectroSmash%20-%20ProCo%20Rat%20Analysis.pdf)

* Supply voltages
Vpp vpp 0 DC 9
Vp  vp  0 DC 4.5

* Input voltage
Vi  vi 0 SINE(0 1 60 0 0 0 10)

* Input network
R5 vi 0 1M
C3 vi     v1 22n
R4 vi     vp 1Meg
R6 v1   vpos 1k
C4 vpos    0 1n

* Op-Amp: LM308 non-ideal model. The literal gain=1e6 VCVS below is what
* LTspice actually simulates (kept as plain valid SPICE); the trailing
* comment redirects our own tool to the full non-ideal model instead.
* Vsat+/Vsat-/slew are left out for now -- enabling them here (Vsat+=9
* Vsat-=0 slew=300k) makes the generated model diverge, because this is
* the first circuit where the op-amp's AMP_CLIP Newton unknown ends up in
* the same cluster as other nonlinear devices (D1/D2 diode pair, J1 JFET);
* that combination has a real bug (not a convergence/iteration-count issue
* -- max_iter=500 gives byte-identical output to max_iter=20). Flagged as
* a known issue, not fixed here.
.model LM308 OPAMP (Aol=300k Ccomp=30p Rin=40Meg Rout=200 Vos=2m Ios=1n Ibias=7n)
Eamp v2 0 vpos vneg 1e6 ; nodal_model: LM308

* Feedback network
R7 vneg vn1 560
R8 vneg vn2 47
C6  vn1   0 4.7u
C7  vn2   0 2.2u
C5 vneg  v2 100p
Rd vneg  v2 100k ; A100k pot

* Diode Network
R9  v2  v3 1k
C9  v3 vdp 4.7u
D1 vdp   0 D1N914
D2   0 vdp D1N914

* Filter
Rf  vdp v4 100k ; A100k pot
R10  v4 vf 1.6k
C11  vf  0 3.3n

* Output Amp
C12 vf vg 22n
R11 vg  0 1Meg
R13 vs  0 10k
C13 vs vo 10u
RL  vo  0 100k
J1 vpp vg vs 2N5485


* 1N914 diode model
.model D1N914 D (IS=2.52E-9 N=1.752)

* 2N5485 model
.model 2N5485 NJF(BETA=2m VTO=-1)

* Newton-Raphson solver config
* nr_solve(max_iter=20, tol=1.0e-6)

.tran 0 80m 0 20.0u
.wav "vin.wav" 32 48k V(vi)
.wav "vout.wav" 32 48k V(vo)
.options plotwinsize=0
.backanno
.end
